US04544670
Step II. 1-ethyl-3-(2,6-dichlorophenylacetyl)guanidine hydrochloride
A mixture of 30.4 g of a 50% aqueous sodium hydroxide solution, 51.74 g of ethylguanidine sulfate and 800 ml of tetrahydrofuran is stirred for 45 minutes at RT. 60 g of anhydrous sodium sulfate are added and stirring continued for 45 minutes. A solution of 2,6-dichlorophenylacetyl chloride (41.69 g) in 200 ml of tetrahydrofuran is added dropwise and the reaction mixture stirred another day, filtered and concentrated in vacuo. The resulting yellow oil is partitioned between 250 ml of methylene chloride and 250 ml of H2O. After separating the two layers, the aqueous portion is extracted with methylene chloride, the combined organic extract dried over magnesium sulfate, filtered and acidified with hydrochloric acid/methanol. The acidified solution is concentrated in vacuo to afford a white solid which is recrystallized from acetonitrile/methanol affording a white solid, M.P. 228°-230° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethylguanidine sulfate | 51.74 g | S(=O)(=O)(O)O.C(C)NC(=N)N
reactant | sodium sulfate | 60 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 2,6-dichlorophenylacetyl chloride | 41.69 g | ClC1=C(C(=CC=C1)Cl)CC(=O)Cl | C8H5Cl3O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
product | 1-ethyl-3-(2,6-dichlorophenylacetyl)guanidine hydrochloride | Cl.C(C)NC(=N)NC(CC1=C(C=CC=C1Cl)Cl)=O | InChI=1S/C11H13Cl2N3O.ClH/c1-2-15-11(14)16-10(17)6-7-8(12)4-3-5-9(7)13;/h3-5H,2,6H2,1H3,(H3,14,15,16,17);1H
